US09108944B2
A mixture of 2-(pyridin-4-yl)ethanethiol hydrochloride (3.84 g, 21.8 mmol, 4-fluoro-1-nitrobenzene (6.12 g, 43.3 mmol), and K2CO3 (9.0 g, 65.1 mmol) in acetonitrile (150 mL) was refluxed overnight. The reaction mixture was filtered and the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel (EtOAc/PE=1/1) to afford 2.0 g of 4-(2-((4-nitrophenyl)thio)ethyl)pyridine as a light yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.55 (d, 2H), 8.14 (d, 2H), 7.34 (d, 2H), 7.15 (d, 2H), 3.30 (t, 2H), 3.01 (t, 2H).

reactant | 2-(pyridin-4-yl)ethanethiol hydrochloride | Cl.N1=CC=C(C=C1)CCS
reactant | 4-fluoro-1-nitrobenzene | 43.3 mmol, 6.12 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | K2CO3 | 65.1 mmol, 9.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 4-(2-((4-nitrophenyl)thio)ethyl)pyridine | 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SCCC1=CC=NC=C1 | C13H12N2O2S
